US08124606B2
To a solution of ethylamine (69.4 mL, 139 mmol) and triethylamine (21.10 mL, 151 mmol) in DCM (Volume: 150 mL) was added p-Fluorobenzoyl chloride (15.13 mL, 126 mmol) at 0° C. The reaction was stirred at 0° C. for 1 hr and then warmed slowly to room temperature. The reaction mixture was diluted with water. The layers were separated and the organic layer was washed with brine, dried over MgSO4, filtered, and the organic phase stripped to dryness via rotary evaporation. The organic extract was dried in vacuo to provide N-ethyl-4-fluorobenzamide (21 g, 100% yield) as a tan solid.

reactant | ethylamine | 139 mmol, 69.4 mL | C(C)N | C2H7N
reactant | triethylamine | 151 mmol, 21.10 mL | C(C)N(CC)CC | C6H15N
reactant | p-Fluorobenzoyl chloride | 126 mmol, 15.13 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-ethyl-4-fluorobenzamide | 21 g, 100% yield | C(C)NC(C1=CC=C(C=C1)F)=O | C9H10FNO
